US04863503
A solution containing P2I4 (3.42 g, 6 mmol) and 3-(1-hydroxybenzyl)thiophene (1.90 g, 10 mmol) in sodium-dried toluene (100 ml) was heated under nitrogen for one hour. The reaction mixture was cooled and then quenched with 10% aqueous sodium sulphite. The mixture was extracted with ether, and the combined organic phases were washed with water and brine then dried. Filtration and evaporation afforded a yellow oil, which on bulb-to-bulb distillation (110° C. at 0.05 mmHg) gave a pale-pink oil. Chromatography with dichloromethane gave 3-benzylthiophene as an oil (1.02 g, 53% yield); 1H nmr:delta 3.84 (2H,s), 7.0-7.2 (8H,m) ppm.

reactant | 3-(1-hydroxybenzyl)thiophene | 10 mmol, 1.90 g | OC1(CC2=CSC=C2)CC=CC=C1 | C11H12OS
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | sodium | 100 ml | [Na] | Na
product | 3-benzylthiophene | 1.02 g, 53% yield | C(C1=CC=CC=C1)C1=CSC=C1 | C11H10S
